US06462076B2
Preparation of Trans-2-(4-Chloro-benzenesulfonylamino)-cyclohexanecarboxylic Acid
Trans-2-Aminocyclohexanecarboxylic acid (0.150 g, 1.05 mmol) is dissolved in 1.5 ml of water and NaOH (0.09 g, 2.25 mmol) in 1.5 ml of water is added at 0° C. 4-Chlorobenzene sulfonyl chloride (0.243 g, 1.15 mmol) in 1.5 ml of toluene is added. The reaction mixture is stirred at room temperature for 16 hours. The toluene layer is separated and the aqueous layer is washed twice with toluene. The toluene layers are discarded. Ethyl acetate is added to the aqueous layer (15 ml) and 2M HCl until pH<7. The two phases are separated and the aqueous layer is extracted with ethyl acetate (3×15 mL). The combined organic phases are washed with brine (20 ml), dried over MgSO4 and the ethyl acetate is removed under reduced pressure leaving a white solid that is dissolved in toluene (2×10 ml) and concentrated .The product is dried in vacuum.

reactant | Trans-2-Aminocyclohexanecarboxylic acid | 1.05 mmol, 0.150 g | N[C@H]1[C@@H](CCCC1)C(=O)O | C7H13NO2
reactant | NaOH | 2.25 mmol, 0.09 g | [OH-].[Na+]
reactant | 4-Chlorobenzene sulfonyl chloride | 1.15 mmol, 0.243 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | water | 1.5 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Trans-2-(4-Chloro-benzenesulfonylamino)-cyclohexanecarboxylic Acid | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C(=O)O | C13H16ClNO4S
